US07923450B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-morpholin-4-yl-5,6,7,8-tetrahydro-quinazolin-2-yl)-amine
The title compound was prepared from 2-[1-dimethylamino-methylidene]-6-morpholin-4-yl-cyclohexanone (260 mg, 1.0 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (223 mg, 0.60 mmol) using in analogous manner the procedure described in example 45b). Obtained as a white solid (38 mg, 15%). MS ISP (m/e): 421.1 (100) [(M+H)+]. mp 214-216° C.

reactant | 2-[1-dimethylamino-methylidene]-6-morpholin-4-yl-cyclohexanone | 1.0 mmol, 260 mg | CN(C=C1C(C(CCC1)N1CCOCC1)=O)C | C13H22N2O2
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.60 mmol, 223 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(8-morpholin-4-yl-5,6,7,8-tetrahydro-quinazolin-2-yl)-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)N1CCOCC1 | C23H28N6O2
